US08357777B2
Synthesis of methyl 2,2,5-trimethyl-4-oxo-3,6,9-trioxa-5-azaundecan-11-yl adipate (Compound 4.2)
To a solution of tert-butyl 2-(3-hydroxypropoxy)ethoxy(methyl)carbamate (152 mg, 0.646 mmol) and monomethyl adipate (104 mg, 0.646 mmol) in CH2Cl2 (4 mL) were added DCC (146 mg, 0.711 mmol) and DMAP (16 mg, 0.129 mmol). The reaction mixture was stirred at room temperature for 16 h and filtered. The solvent was removed under reduced pressure. The crude product was purified by silica gel flash column chromatography using 27% EtOAc/hexanes as eluent. The desired product was obtained as colorless oil (152 mg, 0.403 mmol, 62%). 1H NMR (CDCl3, 400 MHz): δ (ppm) 1.41 (s, 9 H), 1.56-1.60 (m, 4 H), 2.25-2.27 (m, 4 H), 3.03 (s, 3 H), 3.58 (s, 3 H), 3.59-3.63 (m, 4 H), 3.91-3.94 (m, 2 H), 4.14-4.16 (m, 2 H).

reactant | tert-butyl 2-(3-hydroxypropoxy)ethoxy(methyl)carbamate | 0.646 mmol, 152 mg | OCCCOCCON(C(OC(C)(C)C)=O)C | C11H23NO5
reactant | monomethyl adipate | 0.646 mmol, 104 mg | C(CCCCC(=O)[O-])(=O)OC
reactant | DCC | 0.711 mmol, 146 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.129 mmol, 16 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 2,2,5-trimethyl-4-oxo-3,6,9-trioxa-5-azaundecan-11-yl adipate | C(CCCCC(=O)OCCOCCON(C(OC(C)(C)C)=O)C)(=O)OC | C17H31NO8
